US07244843B2
Step A. Preparation of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-methoxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-hydroxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (30 mg, 0.08 mmol) and proton sponge (26 mg, 0.12 mmol) in dry CH2Cl2 (1.0 mL) was added trimethyloxonium tetrafluoroborate (11.5 mg, 0.08 mmol). The reaction was stir for 16 hr and then quenched with 1M aq.HCl. The reaction was extracted with EtOAc (3×10 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a pink oil. The oil was purified by flash chromatography (silica gel, 0–40% EtOAc in hexanes) to yield 13 mg of the desired product as a colorless oil. MS (ESI) 401 (M+H).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-hydroxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.08 mmol, 30 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)CO)C(F)(F)F)=O)CC1 | C18H21F3N2O4
reactant | proton sponge | 0.12 mmol, 26 mg | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | trimethyloxonium tetrafluoroborate | 0.08 mmol, 11.5 mg | F[B-](F)(F)F.C[O+](C)C
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-methoxymethyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 13 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)COC)C(F)(F)F)=O)CC1 | C19H23F3N2O4
